US07601722B2
A mixture of 1-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (prepared analogously as in general procedure I, 246 mg, 1.00 mmol), tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate (228 mg, 1.05 mmol, 1.05 equiv.) and triphenylphosphine (289 mg, 1.10 mmol, 1.1 equiv.) in tetrahydrofuran (5 mL) was cooled to 0° C. in an ice bath. Diispropyl azodicarboxylate (0.22 mL, 1.1 mmol, 1.1 equiv.) was added dropwise via a syringe. The reaction mixture was stirred overnight while warming to room temperature. Solvent was removed under reduced pressure and the residue was purified by Isco flash column chromatography (silica gel, 3-30% ethyl acetate/hexane) to give 398 mg (89%) of tert-butyl 2-[(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)methyl]morpholine-4-carboxylate as a white foam. MS (ESI) m/z 445.9 ([M+H]+).

reactant | 1-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | C1(=CC=CC=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C12H10N2O2S
reactant | tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate | 1.05 mmol, 228 mg, 1.05 equiv. | OCC1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 1.10 mmol, 289 mg, 1.1 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylate | 1.1 mmol, 0.22 mL, 1.1 equiv. | N(=NC(=O)[O-])C(=O)[O-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-[(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)methyl]morpholine-4-carboxylate | 398 mg, 89% | O=S1(N(C2=C(N1CC1CN(CCO1)C(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C22H27N3O5S
